US07737141B2
Synthesis of {(1R,2R)-2-benzyloxy-1-[(methoxymethylcarbamoyl)methoxymethyl]propyl}carbamic acid t-butyl ester
To a solution of ((2R,3R)-3-benzyloxy-2-t-butoxycarbonylaminobutoxy)acetic acid (42.1 g) in DMF (400 mL) was successively added N,N-diisopropylethylamine (41 mL), N,O-dimethylhydroxyamine hydrochloride (17.4 g), EDCI (34.3 g) and HOBt (24.1 g), and the resultant solution was stirred for 16 hours at room temperature. Solvent was removed by distillation under reduced pressure, and the resultant product was diluted with ethyl acetate and water. The organic layer was partitioned, washed with brine, and then dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure. After passing the residue through a silica pad (silica gel 500 cc), the filtrate was concentrated by distillation under reduced pressure, to thereby obtain the titled compound (46.0 g). The physical properties of the compound were as follows.

reactant | ((2R,3R)-3-benzyloxy-2-t-butoxycarbonylaminobutoxy)acetic acid | 42.1 g | C(C1=CC=CC=C1)O[C@@H]([C@@H](COCC(=O)O)NC(=O)OC(C)(C)C)C | C18H27NO6
reactant | N,N-diisopropylethylamine | 41 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | N,O-dimethylhydroxyamine hydrochloride | 17.4 g | Cl.CNOC
reactant | EDCI | 34.3 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt | 24.1 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 400 mL | CN(C)C=O | C3H7NO
product | {(1R,2R)-2-benzyloxy-1-[(methoxymethylcarbamoyl)methoxymethyl]propyl}carbamic acid t-butyl ester | 46.0 g | C(C)(C)(C)OC(N[C@@H]([C@@H](C)OCC1=CC=CC=C1)COCC(NCOC)=O)=O | C20H32N2O6
